US06039939
N-(1-Hexadecanoyl)-trans-4-hydroxy-L-proline 1-dodecyl ester
trans-4-Hydroxy-L-proline dodecyl ester hydrochloride (10 g, 29.8 mmol) was dissolved in 1,4-dioxane (125 ml) and water (125 ml); with stirring, sodium hydrogencarbonate (10.4 g, 123.8 mmol) was firstly added, followed by 1-hexadecanoyl chloride (9 ml, 8.19 g, 29.8 mmol). The reaction mixture was stirred for 1 hour at room temperature. The suspension was adjusted to pH 1 to 1.5 and then filtered. The residue was washed with water until neutral and dried under reduced pressure in the melt. Yield: 15.1 g (28 mmol, 94% of theory, 97 to 100% purity [HFLC]) of a white waxy crystalline mass, m.p.: 39 to 44° C. 1H-NMR (CDCl3)δ=0.89 (6H, t), 1.2 to 1.4 (40H, m), 1.5 to 1.7 (61-1, m), 2.05 to 2.40 (4H, dm), 3.79 (1H, dd), 4.12 (2H, m), 4.5 to 4.6 ppm (2H, m); 13C-NMR (CDCl3)δ=172.50 (s), 172.48 (s), 70.4 (d), 65.4 (t), 57.6 (d), 55.1 (t), 37.9 (t), 34.6 (t), 32.0, 29.72 (2C), 29.70 (2C), 29.68 (4C), 29.66, 29.62, 29.56 (2C), 29.48, 29.40, 29.38 (2C,), 29.28, 28.56, 25.85, 24.68, 22.70 (2C), 14.1 (2C, q,q). Elemental analysis: calc.: C 73.7%, H 11.8%, N 2.6%, O 11.9%; found: C 73.5%, H 11.8%, N 2.5%, O 12.2%.

reactant | trans-4-Hydroxy-L-proline dodecyl ester hydrochloride | 29.8 mmol, 10 g | Cl.C(CCCCCCCCCCC)OC([C@H]1NC[C@@H](C1)O)=O
reactant | sodium hydrogencarbonate | 123.8 mmol, 10.4 g | C(O)([O-])=O.[Na+]
reactant | 1-hexadecanoyl chloride | 29.8 mmol, 9 ml, 8.19 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | 1,4-dioxane | 125 ml | O1CCOCC1 | C4H8O2
solvent | water | 125 ml | O | H2O
product | N-(1-Hexadecanoyl)-trans-4-hydroxy-L-proline 1-dodecyl ester | C(CCCCCCCCCCC)OC([C@H]1N(C[C@@H](C1)O)C(CCCCCCCCCCCCCCC)=O)=O | C33H63NO4
